US05728699
Preparation of 4-Chloro-4'-ethane Sulfonylmethylbenzhydryl Chloride (Compound No. VIII-5)
4-chloro-4'-ethane sulfonylmethylbenzhydrol (6.0 g), thionyl chloride (5.4 g), toluene (200 ml) and a catalytic amount of N,N-dimethylformamide were mixed and gradually heated with stirring to a refluxing temperature. The mixture was stirred for 4 hours under reflux and then left to cool. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to obtain the desired product as a slight yellow viscous substance (4.6 g, nD20 : 1.6044, yield: 75%).

reactant | 4-chloro-4'-ethane sulfonylmethylbenzhydrol | 6.0 g | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)CC)O)C=C1 | C16H17ClO3S
reactant | thionyl chloride | 5.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Chloro-4'-ethane Sulfonylmethylbenzhydryl Chloride | yield: 75% | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)CC)Cl)C=C1 | C16H16Cl2O2S
